US06872730B2
To a solution of ethyl 2-{6-[(tert-butoxy)-N-methylcarbonylamino]-2-pyridyl}acetate (3.56 g, 12.1 mmol) in dichloromethane (15 ml) was added trifluoroacetic acid (8 ml). The reaction was stirred for 16 h. The solvent was removed under vacuum and the crude product was chromatographed over silica gel to yield 2.2 g (100%) of Ethyl 2-[6-(methylamino)-2-pyridyl]acetate.

reactant | ethyl 2-{6-[(tert-butoxy)-N-methylcarbonylamino]-2-pyridyl}acetate | 12.1 mmol, 3.56 g | C(C)(C)(C)ON(C(=O)C)C1=CC=CC(=N1)CC(=O)OCC | C15H22N2O4
reactant | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | Ethyl 2-[6-(methylamino)-2-pyridyl]acetate | 2.2 g, 100% | CNC1=CC=CC(=N1)CC(=O)OCC | C10H14N2O2
